US07935722B2
2-Bromomethyl-6-fluoro-pyridine
Combine 2-methyl-6-fluoro-pyridine (19.6 g, 176 mmol), 1,1′-azobis-(cyclohexane-carbonitrile) (0.431 g, 1.77 mmol), and freshly recystallized N-bromo-succinimide (32.96 g, 185 mmol) in carbon tetrachloride (200 mL) and stir in a 1000 mL flask while radiating with UV light for 18 h. Allow to cool, then filter to remove succinimide and wash with dilute Na2S2O3 solution. Dry over Na2SO4, filter and evaporate to give an amber oil. Purify by silica gel chromatography, eluting with 0-30% EtOAc/hexanes to obtain 12.3 g (37%) of a clear oil. MS 100% (m/e) 190 (EI); 1H NMR (DMSO, 400 MHz): δ 8.03-7.95 (m, 1H), 8.03-7.95 (m, 1H), 7.48 (dd, 1H, J=7.5, 2.6 Hz), 7.11 (dd, 1H, J=7.9, 2.6 Hz), 4.63 (s, 2H).

reactant | 2-methyl-6-fluoro-pyridine | 176 mmol, 19.6 g | CC1=NC(=CC=C1)F | C6H6FN
reactant | N-bromo-succinimide | 185 mmol, 32.96 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 1,1′-azobis-(cyclohexane-carbonitrile) | 1.77 mmol, 0.431 g | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 2-Bromomethyl-6-fluoro-pyridine | 12.3 g, 37% | BrCC1=NC(=CC=C1)F | C6H5BrFN
